US07728000B2
Preparation of 10H-Indolo[3,2-b]quinoline-11-carboxylic acid (2-dimethylamino-propyl)amide (Iv)
10H-Indolo[3,2-b]quinoline-11-carboxylic acid (0.2 g, 0.76 mmol) was dissolved in 8 ml of refluxing SOCl2. After 6 hours a clear solution was obtained, and all volatiles were removed in vacuo. The crude acid chloride was suspended in 10 ml of CH2Cl2. A solution of N,N-dimethylproylendiamine (0.1 mL, 0.97 mmol) and triethylamine (1 ml) in 10 ml of CH2Cl2 was added at room temperature, and the mixture was stirred for 14 hours. The organic phase was washed (NaHCO3, brine) and dried (MgSO4). Removal of the solvent and purification by chromatography on alumina (CH2Cl2/MeOH, 90:10) yielded the desired compound (80 mg, 31%) as a solid. m. p. 188-189° C. 1H-NMR [MeOD,_, ppm]: 8.16 (d, J=7.8 Hz, 1H), 7.92 (m, 2H), 7.35-7.20 (m, 3H), 7.04 (m, 2H), 3.62 (m, 2H, CH2NO), 2.55 (m, 2H, CH2N(CH3)2), 2.29 (s, 6H, N(CH3)2), 1.88 (m, 2H, CHO. MS (EI, m/z) 347 (M++1).

reactant | 10H-Indolo[3,2-b]quinoline-11-carboxylic acid | 0.76 mmol, 0.2 g | C1=C2C(=C3C(=NC2=CC=C1)C1=CC=CC=C1N3)C(=O)O | C16H10N2O2
reactant | N,N-dimethylproylendiamine | 0.97 mmol, 0.1 mL | CN(CC(C)N)C | C5H14N2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | SOCl2 | 8 ml | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 10H-Indolo[3,2-b]quinoline-11-carboxylic acid (2-dimethylamino-propyl)amide | 80 mg, 31% | CN(C(CNC(=O)C1=C2C(=NC3=CC=CC=C13)C1=CC=CC=C1N2)C)C | C21H22N4O
